US07897737B2
2′-deoxycytidine dC (2.85 g, 12.54 mmol), imidiazole (6.49 g, 95.31 mmol), and TBSCl (7.18 g, 47.65 mmol) were added to anhydrous DMF (27 mL) and stirred at room temperature overnight under a N2 atmosphere. Methanol (20 mL) was added, and the mixture was stirred for 30 minutes and then concentrated in vacuo. Ethyl acetate (60 mL) and water (60 mL) were then added. The organic layer was separated and washed twice with water (20 mL), and the combined aqueous layer was extracted with ethyl acetate (20 mL). The combined organic layer was dried with Na2SO4, concentrated in vacuo, and purified by silica gel chromatography to give 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxycytidine dC.01 (4.79 g, 84%) as a white foam.

reactant | 2′-deoxycytidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
reactant | TBSCl | 47.65 mmol, 7.18 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DMF | 27 mL | CN(C)C=O | C3H7NO
solvent | Methanol | 20 mL | CO | CH4O
product | 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxycytidine | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)N=C(N)C=C1)O | C21H41N3O4Si2
